US03985888
To 24.3 grams (0.1 M) of 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione in 100 milliliters of dry dimethylformamide was added with stirring 5.4 grams (0.1 M) of sodium methoxide. This was followed by 17.0 milliliters of dimethyl sulfate. The reaction mixture became clear and was slightly exothermic. After stirring for 15 minutes, 50 milliliters of solvent was removed at reduced pressure on a steam bath. The resulting solution was cooled and added to 1 liter of ice water. The resulting precipitate was collected and washed with 5 per cent sodium hydroxide solution and finally with water. Recrystallization from butanone-petroleum ether (70°-90°) and then from aqueous ethanol gave 18.4 grams (17.5%) of 1'-methyl-2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione, melting point 136°-137.5° C.

reactant | 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 0.1 M, 24.3 grams | N1C(C2(CCC1=O)CCC(C1=CC=CC=C12)=O)=O | C14H13NO3
reactant | sodium methoxide | 0.1 M, 5.4 grams | C[O-].[Na+]
reactant | dimethyl sulfate | 17.0 milliliters | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
product | 1'-methyl-2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 18.4 grams, 17.5% | CN1C(C2(CCC1=O)CCC(C1=CC=CC=C12)=O)=O | C15H15NO3
